US05883102
1-(2,2,2-Trifluoroacetyl)-4-piperidone ethylene ketal
Trifluoroacetic anhydride (1.47 g, 7.0 mmol) was added to a solution of 4-piperidone ethylene ketal (1.0 g, 7.0 mmol) in acetonitrile (20 ml) and stirred for 4 h. Water was added and the mixture extracted with ethyl acetate, the organic layer dried over sodium sulphate and evaporated to give the product, MS (+EI) 239 (M+), 1H NMR (CDCl3) 3.99 (s, 4H), 3.79 (2H, dd), 3.67 (2H, dd), 1.77 (4H, dd).

reactant | Trifluoroacetic anhydride | 7.0 mmol, 1.47 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-piperidone ethylene ketal | 7.0 mmol, 1.0 g | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | Water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(2,2,2-Trifluoroacetyl)-4-piperidone ethylene ketal | C1COC2(CCN(CC2)C(C(F)(F)F)=O)O1 | C9H12F3NO3
